### PR TITLE
[Merged by Bors] - chore: cleanup some List lemmas

### PR DESCRIPTION
**Pull request by kim-em**

### CODE REVIEW

File: Mathlib/Data/List/Infix.lean [hunk 1]
```diff
@@ -38,12 +38,15 @@ variable {l l₁ l₂ l₃ : List α} {a b : α} {m n : ℕ}
...
 
+@[deprecated prefix_refl (since := "2024-08-12")]
 theorem prefix_rfl : l <+: l :=
   prefix_refl _
 
+@[deprecated suffix_refl (since := "2024-08-12")]
 theorem suffix_rfl : l <:+ l :=
   suffix_refl _
 
+@[deprecated infix_refl (since := "2024-08-12")]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/List/Infix.lean:49]: Please leave those alone

**Review by Ruben-VandeVelde — DISMISSED** [review]

File: Mathlib/Data/List/Infix.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/Data/List/Infix.lean:49]: Oops, thanks.

File: Mathlib/Data/List/Enum.lean [hunk 2]
```diff
@@ -34,23 +34,22 @@ theorem get_enum (l : List α) (i : Fin l.enum.length) :
     l.enum.get i = (i.1, l.get (i.cast enum_length)) := by
   simp
 
-theorem mk_add_mem_enumFrom_iff_get? {n i : ℕ} {x : α} {l : List α} :
+@[deprecated mk_add_mem_enumFrom_iff_getElem? (since := "2024-08-12")]
+theorem mk_add_mem_enumFrom_iff_get? {n i : Nat} {x : α} {l : List α} :
```
Comment (j-loreaux) [inline Mathlib/Data/List/Enum.lean:38]: I don't really care about this, but I'd just like to know the answer from you, since there was a PR that did the opposite at one point recently but you didn't seem to mind. Why are switching from `ℕ` to `Nat` here? You can just `@` me with the answer and resolve this.

**Review by j-loreaux — APPROVED** [review]
bors d+

File: Mathlib/Data/List/Enum.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/Data/List/Enum.lean:38]: @j-loreaux. Oh, purely a copy-paste lapse on my part. I'd had this chunk running in the Lean4 folder, where I couldn't use `ℕ`, and didn't notice when I moved it back here.

I'll fix now.

Comment (semorrison) [inline Mathlib/Data/List/Enum.lean:38]:
```suggestion
theorem mk_add_mem_enumFrom_iff_get? {n i : ℕ} {x : α} {l : List α} :
```

File: Mathlib/Data/List/Enum.lean [hunk 3]
```diff
@@ -34,23 +34,22 @@ theorem get_enum (l : List α) (i : Fin l.enum.length) :
...
     (n + i, x) ∈ enumFrom n l ↔ l.get? i = x := by
   simp [mem_iff_get?]
 
-theorem mk_mem_enumFrom_iff_le_and_get?_sub {n i : ℕ} {x : α} {l : List α} :
+@[deprecated mk_mem_enumFrom_iff_le_and_getElem?_sub (since := "2024-08-12")]
+theorem mk_mem_enumFrom_iff_le_and_get?_sub {n i : Nat} {x : α} {l : List α} :
```
Comment (semorrison) [inline Mathlib/Data/List/Enum.lean:43]:
```suggestion
theorem mk_mem_enumFrom_iff_le_and_get?_sub {n i : ℕ} {x : α} {l : List α} :
```

File: Mathlib/Data/List/Enum.lean [hunk 4]
```diff
@@ -34,23 +34,22 @@ theorem get_enum (l : List α) (i : Fin l.enum.length) :
...
-
-theorem mk_mem_enum_iff_get? {i : ℕ} {x : α} {l : List α} : (i, x) ∈ enum l ↔ l.get? i = x := by
-  simp [enum, mk_mem_enumFrom_iff_le_and_get?_sub]
-
-theorem mem_enum_iff_get? {x : ℕ × α} {l : List α} : x ∈ enum l ↔ l.get? x.1 = x.2 :=
-  mk_mem_enum_iff_get?
+  simp [mk_mem_enumFrom_iff_le_and_getElem?_sub]
+
+@[deprecated mem_enum_iff_getElem? (since := "2024-08-12")]
+theorem mk_mem_enum_iff_get? {i : Nat} {x : α} {l : List α} : (i, x) ∈ enum l ↔ l.get? i = x := by
```
Comment (semorrison) [inline Mathlib/Data/List/Enum.lean:48]:
```suggestion
theorem mk_mem_enum_iff_get? {i : ℕ} {x : α} {l : List α} : (i, x) ∈ enum l ↔ l.get? i = x := by
```

File: Mathlib/Data/List/Enum.lean [hunk 5]
```diff
@@ -34,23 +34,22 @@ theorem get_enum (l : List α) (i : Fin l.enum.length) :
...
+  simp [enum, mk_mem_enumFrom_iff_le_and_getElem?_sub]
+
+@[deprecated mk_mem_enum_iff_getElem? (since := "2024-08-12")]
+theorem mem_enum_iff_get? {x : Nat × α} {l : List α} : x ∈ enum l ↔ l.get? x.1 = x.2 := by
```
Comment (semorrison) [inline Mathlib/Data/List/Enum.lean:52]:
```suggestion
theorem mem_enum_iff_get? {x : ℕ × α} {l : List α} : x ∈ enum l ↔ l.get? x.1 = x.2 := by
```

**Comment by semorrison** [comment]
bors merge
